US04288391
Preparation of (3,3',5,5'-tetra-tert.-butyl-1,1'-biphenyl-2,2'diyl) phosphorochloridite
45.21 grams of phosphorous trichloride in 50 ml of toluene was added dropwise over 85 minutes to a solution of 123.0 grams of 4,4',6,6'-tetra-tert.-butyl-2,2'-biphenol and 60.6 grams of triethylamine in about 600 ml of toluene and stirred at room temperature overnight (about 20 hours). The reaction product was filtered free of triethylamine hydrochloride, the desired product being isolated by removal of the solvent at reduced pressure to yield a solid m.p. 168°-174°.

reactant | phosphorous trichloride | 45.21 grams | P(Cl)(Cl)Cl | Cl3P
reactant | 4,4',6,6'-tetra-tert.-butyl-2,2'-biphenol | 123.0 grams | C(C)(C)(C)C=1C=C(C(=C(C1)C(C)(C)C)O)C=1C(=C(C=C(C1)C(C)(C)C)C(C)(C)C)O | C28H42O2
reactant | triethylamine | 60.6 grams | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | about 600 ml | C1(=CC=CC=C1)C | C7H8
product | (3,3',5,5'-tetra-tert.-butyl-1,1'-biphenyl-2,2'diyl) phosphorochloridite | P1(OC2=C(C=C(C=C2C(C)(C)C)C(C)(C)C)C2=C(C(=CC(=C2)C(C)(C)C)C(C)(C)C)O1)Cl | C28H40ClO2P
